US07465795B2
4-Amino-8-(2,5-dimethoxyphenyl)-N-ethylcinnoline-3-carboxamide
The title compound was prepared from 4-amino-8-bromo-N-ethyl-cinnoline-3-carboxamide (100.0 mg, 0.339 mmol) and 2,5-dimethoxyphenyl boronic acid (123.3 mg, 0.678 mmol) according to Method A. The solid obtained after chromatography was washed with diethyl ether and dried overnight at 40° C. to afford the title compound as a fluffy white solid (64.4 mg, 54% yield). 1H NMR (300.132 MHz, CDCl3) δ 8.51 (bt, J=5.2 Hz, 1H), 7.86 (dd, J=7.5, 2.1 Hz, 1H), 7.76-7.68 (m, 2H), 6.97-6.91 (m, 3H), 3.79 (s, 3H), 3.64 (s, 3H), 3.52 (dq, J=5.7, 7.3 Hz, 2H), 1.26 (t, J=7.3 Hz, 3H). MS APCI, m/z=353 (M+H). HPLC 2.41 min.

reactant | 4-amino-8-bromo-N-ethyl-cinnoline-3-carboxamide | 0.339 mmol, 100.0 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCC | C11H11BrN4O
reactant | 2,5-dimethoxyphenyl boronic acid | 0.678 mmol, 123.3 mg | COC1=C(C=C(C=C1)OC)B(O)O | C8H11BO4
product | 4-Amino-8-(2,5-dimethoxyphenyl)-N-ethylcinnoline-3-carboxamide | 64.4 mg, 54% yield | NC1=C(N=NC2=C(C=CC=C12)C1=C(C=CC(=C1)OC)OC)C(=O)NCC | C19H20N4O3
